US04123250
Preparation of N-(Ethoxycarbonyl)-3,4-dimethylaniline
The above-named compound is prepared by first dissolving 51.5 grams of 3,4-dimethylaniline in 250 ml. of benzene. Then, while maintaining the solution at a temperature in the range of between 20° C. and 30° C., a benzene solution containing 23.9 grams of ethyl chloroformate is slowly added. The mixture is permitted to stand overnight at room temperature and then filtered. The filtrate is stripped by evaporation under vacuum, leaving the desired product, in the form of a dark purple liquid weighing 30 grams.

reactant | 3,4-dimethylaniline | 51.5 grams | CC=1C=C(N)C=CC1C | C8H11N
reactant | ethyl chloroformate | 23.9 grams | ClC(=O)OCC | C3H5ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(Ethoxycarbonyl)-3,4-dimethylaniline | C(C)OC(=O)NC1=CC(=C(C=C1)C)C | C11H15NO2
